US05234818
3-Amino-2-phenylpyrazolo[1,5-a]quinoline
1.0 g. 2-Phenylpyrazolo[1,5-a]quinoline (see J. Het. Chem., 12, 481/1975) are nitrosated analogously to Example 3. There is obtained 1 g. (89% of theory) of the corresponding 3-nitroso compound which is suspended in 90 ml. ethanol and mixed with 200 mg. palladium on carbon. The mixture is heated to 80° C. and 0.25 ml. hydrazine hydrate added portionwise thereto. After 10 minutes, the palladium-carbon is filtered off and the filtrate is evaporated. The residue is dissolved in ethanol and mixed with ethanolic hydrogen chloride. The precipitated hydrochloride is filtered off with suction to give 0.7 g. (72% of theory) of the title compound; m.p. 255°-258° C. TLC (Silica gel/methylene chloride): Rf =0.2

reactant | 2-Phenylpyrazolo[1,5-a]quinoline | C1(=CC=CC=C1)C1=NN2C(C=CC3=CC=CC=C23)=C1 | C17H12N2
reactant | hydrazine hydrate | O.NN
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 3-Amino-2-phenylpyrazolo[1,5-a]quinoline | NC=1C(=NN2C1C=CC1=CC=CC=C21)C2=CC=CC=C2 | C17H13N3
